US08049015B2
A mixture of 5-bromo-6-methoxy-pyridine-3-carbaldehyde and 5-bromo-6-methoxy-nicotinic acid ethyl ester (3 g, 13.9 mmol) was dissolved in THF (30 mL) and cooled to 0° C., and lithium triethylborohydride (1M in THF; 42 mL, 42 mmol) was added. The reaction was stirred for 5 minutes, and then quenched with EtOH, acidified with 1N aqueous HCl, and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give (5-bromo-6-methoxy-pyridin-3-yl)-methanol.

reactant | 5-bromo-6-methoxy-pyridine-3-carbaldehyde | BrC=1C=C(C=NC1OC)C=O | C7H6BrNO2
reactant | 5-bromo-6-methoxy-nicotinic acid ethyl ester | 13.9 mmol, 3 g | C(C)OC(C1=CN=C(C(=C1)Br)OC)=O | C9H10BrNO3
reactant | lithium triethylborohydride | 42 mmol, 1M, 42 mL | C(C)[BH-](CC)CC.[Li+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (5-bromo-6-methoxy-pyridin-3-yl)-methanol | BrC=1C=C(C=NC1OC)CO | C7H8BrNO2
